US04278098
PREPARATION OF 2,6,6-TRIMETHYL-α-ISOPROPENYL-1-CYCLOHEXENE-1-METHANOL
Into a 500 ml flask equipped with immersion thermometer, mechanical stirrer, 250 ml addition funnel, Friedrich's condenser, dry-ice/isopropyl alcohol bath and gas bubbler is placed 1.9 grams (44.7 cm in length) (0.28 gram atoms) of cut up lithium wire and 100 ml anhydrous diethyl ether. The lithium/diethyl ether mixture is cooled to -10° C. 15.7 Grams (0.13 moles) of 2-bromo-1-propene (dissolved in approximately 40 ml anhydrous diethyl ether) is added drop-wise to the reaction mass keeping the temperature at between -10° C. and -5° C. Following addition of the 2-bromo-1-propene, the reaction mass is stirred for a period of 30 minutes at 0° C. and for a period of 1.5 hours at room temperature (20° C.). The reaction mass is then chilled to -20° C. and 15.2 grams (0.10 moles) of beta cyclocitral (dissolved in approximately 60 ml diethyl ether) is added dropwise while keeping the reaction temperature at between -20° C. ad -15° C. After addition of the beta cyclocitral, the reaction mass is stirred for a period of 15 minutes at -20° C.; and for a period of 120 minutes at +24° C. The reaction mass is then poured into a saturated aqueous ammonium chloride solution, and the resulting organic phase is separated from the aqueous phase. The aqueous phase is washed with anhydrous diethyl ether. The organic phase is washed with saturated brine. The organic phase and the ether extracts are combined and the resulting material is dried and concentrated to yield 19.98 grams of crude material. This material is distilled under vacuum to 5 fractions as follows:

reactant | dry-ice isopropyl alcohol | C(=O)=O.C(C)(C)O
reactant | lithium | [Li] | Li
reactant | lithium diethyl ether | [Li].C(C)OCC
reactant | 2-bromo-1-propene | 0.13 moles, approximately 40 ml | BrC(=C)C | C3H5Br
reactant | beta cyclocitral | 0.10 moles, approximately 60 ml, 15.2 grams | CC1=C(C(CCC1)(C)C)C=O | C10H16O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,6,6-TRIMETHYL-α-ISOPROPENYL-1-CYCLOHEXENE-1-METHANOL | 19.98 grams | CC1=C(C(CCC1)(C)C)C(O)C(=C)C | C13H22O
